US04130568
A solution of 40 mg. (.13 mmole) of 7-acetoxy-6-[2-acetoxyvinyl]-8-methoxycoumarin in 5 ml. of 85% phosphoric acid was heated at 90° for 30 minutes. The solution was cooled and partitioned between water/methylene chloride. The aqueous phase was further extracted with methylene chloride. The organic phases were combined, dried over sodium sulfate, and evaporated to afford pure 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one, mp 145°-146°, as a crystalline white solid.

reactant | 7-acetoxy-6-[2-acetoxyvinyl]-8-methoxycoumarin | .13 mmole | C(C)(=O)OC1=C(C=C2C=CC(OC2=C1OC)=O)C=COC(C)=O | C16H14O7
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one | COC1=C2C(=CC=3C=CC(OC31)=O)C=CO2 | C12H8O4
